US07476666B2
Step 5: 3-Benzyloxy-N-(4-fluorobenzyl)-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide
To a solution of 3-benzyloxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid (20 mg, 0.053 mmol) in anhydrous DMF were added HOBT (11 mg, 0.079 mmol), EDC (15 mg, 0.079 mmol), Et3N (7 μL, 0.053 mmol), and 4-fluorobenzylamine (7 μL, 0.064 mmol). The reaction mixture was stirred at room temperature for 1 hour. Purification was achieved by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA). Collection and concentration of the appropriate fractions yielded the title product as a white solid. ES MS (M+1)=485.

reactant | 3-benzyloxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid | 0.053 mmol, 20 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C2=CC=CC=C2)C)=O)C(=O)O | C21H19N3O4
reactant | HOBT | 0.079 mmol, 11 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.079 mmol, 15 mg
reactant | Et3N | 0.053 mmol, 7 μL | CCN(CC)CC | C6H15N
reactant | 4-fluorobenzylamine | 0.064 mmol, 7 μL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Benzyloxy-N-(4-fluorobenzyl)-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C2=CC=CC=C2)C)=O)C(=O)NCC2=CC=C(C=C2)F | C28H25FN4O3
